US04307094
23.9 g (0.114 mol) of 4-(2-chloroethyl)-1-ethoxycarbonyl-semicarbazide and 57 ml (0.228 mol) of 4-M potassium hydroxide solution were stirred together at room temperature for 2 hours. The mixture was diluted with 100 ml of water, applied to an ion-exchange column (Dowex 50X-8, H+ form) and eluted with water. The eluate was evaporated in vacuo to give a colourless solid which was recrystallized from water to give 7.97 g (43%) of 4-(2-chloroethyl)-1,2,4-triazolidine-3,5-dione of melting point 192°-193° C.

reactant | 4-(2-chloroethyl)-1-ethoxycarbonyl-semicarbazide | 0.114 mol, 23.9 g | ClCCNC(NNC(=O)OCC)=O | C6H12ClN3O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 100 ml | O | H2O
product | 4-(2-chloroethyl)-1,2,4-triazolidine-3,5-dione | 7.97 g, 43% | ClCCN1C(NNC1=O)=O | C4H6ClN3O2
